US08471005B2
4-(4-Nitro-phenyl)-1-(2,2,2-trifluoro-acetyl)-piperidine-4-carbonitrile (1.28 g, 3.91 mmol) was suspended in Methanol (50.0 mL) and treated with 2.00 M of Sodium carbonate in Water (20.0 mL, 40.0 mmol) at rt overnight. Water was added to the heterogenous mixture to achieve a solution, then the mixture was partitioned between DCM and brine (50 mL each). Ext. of the aq. with DCM (3×50 mL), followed by washing the org. with brine (50 mL), drying and conc. in vacuo afforded 4-(4-Nitro-phenyl)-piperidine-4-carbonitrile (0.800 g; Yield=88.4) as a white solid. 1H-NMR (DMSO-d6): 8.30 (d, 2H, J=8.8 Hz), 7.83 (d, 2H, J=8.8 Hz), 3.07 (m, 2H), 2.82 (m, 2H), 2.36 (br s, 1H), 2.05 (m, 2H), 1.92 (m, 2H).

reactant | 4-(4-Nitro-phenyl)-1-(2,2,2-trifluoro-acetyl)-piperidine-4-carbonitrile | 3.91 mmol, 1.28 g | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCN(CC1)C(C(F)(F)F)=O)C#N | C14H12F3N3O3
reactant | Sodium carbonate | 2.00 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 40.0 mmol, 20.0 mL | O | H2O
solvent | Methanol | 50.0 mL | CO | CH4O
product | 4-(4-Nitro-phenyl)-piperidine-4-carbonitrile | 0.800 g | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCNCC1)C#N | C12H13N3O2
